US07253286B2
7-Benzyloxy-6-cyano-4-(4-nitrophenoxy)quinoline
To the 7-benzyloxy-4-chloro-6-cyanoquinoline (2.60 g, 8.83 mmol) described in WO98/13350 there were added 4-nitrophenol (2.46 g, 17.7 mmol) and lutidine (2.06 ml, 17.7 mmol), and the mixture was heated and stirred at 155–158° C. for 2 hours. After returning the reaction system to room temperature, it was dissolved in tetrahydrofuran, saturated sodium bicarnobate water was added and stirred therewith for 10 minutes, the mixture was concentrated under reduced pressure, the precipitated solid was filtered out and subjected to silica gel column chromatography (Fuji Silysia NH Type, eluent—hexane:ethyl acetate=50:50→ethyl acetate alone), the fraction containing the target substance was concentrated and the obtained solid was washed with diethylether. It was then dried under reduced pressure to obtain the title compound (1.84 g, 4.63 mmol, 52.6%).

reactant | 7-benzyloxy-4-chloro-6-cyanoquinoline | 8.83 mmol, 2.60 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)C#N | C17H11ClN2O
reactant | 4-nitrophenol | 17.7 mmol, 2.46 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | lutidine | 17.7 mmol, 2.06 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | sodium | [Na] | Na
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-Benzyloxy-6-cyano-4-(4-nitrophenoxy)quinoline | 4.63 mmol, 1.84 g, 52.6% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)[N+](=O)[O-])C#N | C23H15N3O4
